US05912353
Synthesis of Monopotassium 2-[[5-ethyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-1,3,4-thiadiazolin-2-yliden]aminocarbonyl]-1-cyclopentenecarboxylate
To 206 mg of 2-[[5-ethyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-1,3,4-thiadiazolin-2-ylidene]aminocarbonyl]-1-cyclopentenecarboxylic acid, 8.3 ml of a 0.05N potassium hydroxide solution in ethanol and 50 ml of ethanol were added, followed by heating over water bath to dissolve completely. From the resulting solution, the solvent was distilled off under reduced pressure. To the residue, ethanol was added and the solid so precipitated was collected by filtration. The solid was dried under reduced pressure, whereby 180 mg of the title compound was obtained.

reactant | 2-[[5-ethyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-1,3,4-thiadiazolin-2-ylidene]aminocarbonyl]-1-cyclopentenecarboxylic acid | 206 mg | C(C)C1=NN(C(S1)=NC(=O)C1=C(CCC1)C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C25H23N7O3S
reactant | potassium hydroxide | 0.05N | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Monopotassium 2-[[5-ethyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-1,3,4-thiadiazolin-2-yliden]aminocarbonyl]-1-cyclopentenecarboxylate | 180 mg | C(C)C1=NN(C(S1)=NC(=O)C1=C(CCC1)C(=O)[O-])CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1.[K+] | InChI=1S/C25H23N7O3S.K/c1-2-21-29-32(25(36-21)26-23(33)19-8-5-9-20(19)24(34)35)14-15-10-12-16(13-11-15)17-6-3-4-7-18(17)22-27-30-31-28-22;/h3-4,6-7,10-13H,2,5,8-9,14H2,1H3,(H,34,35)(H,27,28,30,31);/q;+1/p-1
